US05112828
2-(4-Chlorobenzyl)-2-ethyl-1-(3-pyridyl)butyl acetate (compound no. 611)
10.2 g (0.10 mol) of acetic anhydride are added dropwise to a solution of 12.1 g (0.04 mol) of 2-(4chlorobenzyl)-2-ethyl-1-(3-pyridyl)-1-butanol in 50 ml of pyridine at room temperature, and the mixture is then heated at 80° C. for 8 h. The reaction mixture is concentrated, the residue is taken up in 200 ml of dichloromethane, and the solution is washed with saturated NaHCO3 solution and then with water. The organic phase is dried and concentrated, and the remaining black oil is purified on silica gel (mobile phase: 5:1 cyclohexane/ethyl acetate). 11.2 g (81% of theory) of the title compound are obtained as a viscous yellow oil.

reactant | acetic anhydride | 0.10 mol, 10.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(4chlorobenzyl)-2-ethyl-1-(3-pyridyl)-1-butanol | 0.04 mol, 12.1 g | ClC1=CC=C(CC(C(O)C=2C=NC=CC2)(CC)CC)C=C1 | C18H22ClNO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Chlorobenzyl)-2-ethyl-1-(3-pyridyl)butyl acetate | C(C)(=O)OC(C(CC)(CC)CC1=CC=C(C=C1)Cl)C=1C=NC=CC1 | C20H24ClNO2
